US07741327B2
To a stirred solution of (S)-3-cyclohexyl-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (405 mg, 0.001 mol) in tetrahydrofuran-water (3:1) was added lithium hydroxide (128 mg, 0.003 mol). The reaction mixture was stirred at 23° C. for 2 h. After this time, the mixture was concentrated and the reaction mixture was diluted with water. The reaction mixture was acidified with 2N hydrochloric acid, during which time precipitation occurred. The precipitate was removed by filtration, washed with cold water and dried in vacuo to obtain (S)-3-cyclohexyl-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid (0.3 g, 77%) as a yellow solid.

reactant | (S)-3-cyclohexyl-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 0.001 mol, 405 mg | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)Cl)=O)=O | C20H23Cl2NO4
reactant | lithium hydroxide | 0.003 mol, 128 mg | [OH-].[Li+]
solvent | tetrahydrofuran water | O1CCCC1.O
product | (S)-3-cyclohexyl-2-[4-(2,3-dichloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid | 0.3 g, 77% | C1(CCCCC1)C[C@@H](C(=O)O)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)Cl)=O | C19H21Cl2NO4
